US07109194B2
2.1. Ethyl 7-chloro-5-methyl-4-oxo-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate
A solution of 4.38 g (13.5 mmol) of ethyl 6-chloro-2-(ethoxycarbonyl)-1-methyl-α-oxo-1H-indole-3-acetate (disclosed in WO-A-00/44751), of 65 ml of glacial acetic acid and of 2.7 ml (55.7 mmol) of hydrazine monohydrate is brought to reflux for 3 h.

reactant | ethyl 6-chloro-2-(ethoxycarbonyl)-1-methyl-α-oxo-1H-indole-3-acetate | 13.5 mmol, 4.38 g | ClC1=CC=C2C(=C(N(C2=C1)C)C(=O)OCC)C(C(=O)OCC)=O | C16H16ClNO5
reactant | hydrazine monohydrate | 55.7 mmol, 2.7 ml | O.NN
solvent | acetic acid | 65 ml | C(C)(=O)O | C2H4O2
product | Ethyl 7-chloro-5-methyl-4-oxo-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate | ClC=1C=CC=2C3=C(N(C2C1)C)C(NN=C3C(=O)OCC)=O | C14H12ClN3O3
